US07375227B2
382B. 1-[3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-propyl]-3-(2-methyl-quinolin-4-yl)-urea
Prepared from 4-hydroxy-4-benzyl-piperidine and 1-(3-chloro-propyl)-3-(2-methyl-quinolin-4-yl)-urea using the method exemplified with Example 341, 1-[2-(4-hydroxy-4-p-tolyl-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea.

reactant | 4-hydroxy-4-benzyl-piperidine | OC1(CCNCC1)CC1=CC=CC=C1 | C12H17NO
reactant | 1-(3-chloro-propyl)-3-(2-methyl-quinolin-4-yl)-urea | ClCCCNC(=O)NC1=CC(=NC2=CC=CC=C12)C | C14H16ClN3O
reactant | 1-[2-(4-hydroxy-4-p-tolyl-piperidin-1-yl)-ethyl]-3-(2-methyl-quinolin-4-yl)-urea | OC1(CCN(CC1)CCNC(=O)NC1=CC(=NC2=CC=CC=C12)C)C1=CC=C(C=C1)C | C25H30N4O2
product | 1-[3-(4-Benzyl-4-hydroxy-piperidin-1-yl)-propyl]-3-(2-methyl-quinolin-4-yl)-urea | C(C1=CC=CC=C1)C1(CCN(CC1)CCCNC(=O)NC1=CC(=NC2=CC=CC=C12)C)O | C26H32N4O2
